US06914074B2
6-(3-Hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 2-methoxy-6-(3-methoxyphenyl)naphthalene (0.51 g, 1.90 mmol) with pyridinium HCl (6 g) at 190° C. according to method B to yield 0.21 g (47%) of an off white solid: mp 192-194° C.; 1H NMR (DMSO-d6): δ 6.75-6.78 (1H, m), 7.10-7.14 (3H, m), 7.16-7.18 (1H, m), 7.65 (1H, dd, J=1.79 Hz, J=8.57 Hz), 7.75 (1H, d, J=8.77 Hz), 7.84 (1H, d, J=8.77 Hz), 8.01 (1H, d, J=1.59 Hz), 9.51 (1H, s), 9.78, (1H, s); MS (ESI) m/z 235 (M−H)−. Anal. for C16H12O2:

reactant | 2-methoxy-6-(3-methoxyphenyl)naphthalene | 1.90 mmol, 0.51 g | COC1=CC2=CC=C(C=C2C=C1)C1=CC(=CC=C1)OC | C18H16O2
reactant | pyridinium HCl | 6 g | Cl.[NH+]1=CC=CC=C1
product | 6-(3-Hydroxyphenyl)-2-naphthol | OC=1C=C(C=CC1)C=1C=C2C=CC(=CC2=CC1)O | C16H12O2
